US09212182B2
A MeCN (22 mL) solution of 2-(3-fluorophenyl)-4-methoxypyridine (2.21 g, 10.88 mmol) and N-bromosuccinimide (2.129 g, 11.96 mmol) in a 40-mL vial was wrapped in aluminum foil and stirred at 55° C. overnight. 22 h later, the reaction was cooled to rt, quenched with 1:1 sat. aq. NaHCO3:sat. aq. Na2S2O3 and extracted thrice with EtOAc. The organic extracts were combined, washed with brine, dried over Na2SO4, filtered, and concentrated in vacuo to a brown oil. Column chromatography (50 g Snap Ultra column, 15% to 100% EtOAc/hept) afforded 5-bromo-2-(3-fluorophenyl)-4-methoxypyridine (0.420 g, 1.489 mmol, 13.69% yield) as a white amorphous solid. m/z (ESI) 282.0 (M+H)+.

reactant | MeCN | 22 mL | CC#N | C2H3N
reactant | 2-(3-fluorophenyl)-4-methoxypyridine | 10.88 mmol, 2.21 g | FC=1C=C(C=CC1)C1=NC=CC(=C1)OC | C12H10FNO
reactant | N-bromosuccinimide | 11.96 mmol, 2.129 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | aluminum | [Al] | Al
product | 5-bromo-2-(3-fluorophenyl)-4-methoxypyridine | 1.489 mmol, 0.420 g, 13.69% yield | BrC=1C(=CC(=NC1)C1=CC(=CC=C1)F)OC | C12H9BrFNO
